Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is an ___ yo male w/ h/o afib on ___ transferred from 
___ with ___. His symptoms began one month ago, 
when he could not remember the day or the time.  Two days ago, 
he fell out of a chair to the floor and was unable to pick 
himself up.  He has no history of head injury or loss of 
consciousness.  He phoned a neighbor who found him on the ground 
and he was brought to an OSH hospital.   

At ___ his vital signs were stable, BPs ranged 
from 100-120 systolic, HR ___, maintaining O2 sats on 2LNC.  
Laboratory data notable for absense of leukocytosis, normal 
renal function, INR 4.3.  A RLE ultrasound was negative for DVT 
given Right knee swelling.  A XR of the knee showed DJD with 
effusion.  CXR showed interstitial edema.  Head CT and MRI which 
showed small R frontal and R temporal SDHs and a small R 
occipital intraperitoneal hemorrhage.  He was given 2 units of 
FFP and Vitamin K to reverse his supratherapeutic INR (4.3) on 
coumadin and sent to ___ for evlauation and management by 
neurosurgery managment. 

In the ED vital signs were 97.4   187/100   74   20   2L NC
ROS obtained was positive for generalized weakness.  He denied 
headache.  CXR was obtained which showed signs of volume 
overload and insterstitial lung disease.  He was given 40mg IV 
lasix and transferred to the ICU. 

On the floor, he was tired and unable to provide a history or 
review of systems.  

 
Past Medical History:
Atrial fibrillation
HTN
h/o anemia
h/o osteoarthritis
 
Social History:
___
Family History:
reviewed and no pertinent ___
 
Physical Exam:
VITAL SIGNS:  
T=98.1 BP=136/77 HR=74 ___ O2=94% ___ NC  
    
GENERAL: Asleep, arousable to voice. NAD. Alternating periods of 
apnea and rapid breathing.  
HEENT: Normocephalic, atraumatic. conjunctival pallor. No 
scleral icterus. Dry MM.  
CARDIAC: irregular rhythm, normal rate. Normal S1, S2. ___ 
systolic murmur at RUSB radiating to axilla. ___ blowing 
holosystolic murmur at apex radiating to axilla ___  
LUNGS: Clear anteriorly  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: R knee edema.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: Deferred given complete neuro exam by neurosurgery an hr 
ago.  
  
As per NS:
Neurological Exam:
Mental status: Awake, year - ___, month - ___, hospital -
___.  Fluent speech with some phonemic paraphasias 
Difficulty naming hammock, stethoscope.  

Cranial Nerves:
I: Not tested
II: PERRL, 4-->2mm with light. 
III, IV, VI: EOMI. no nystagmus.
V, VII: facial sensation intact, facial strength
IX, X: Palatal elevation symmetrical.
XII: Tongue midline without fasciculations.

Motor: Normal bulk. Normal tone. No pronator drift.

     Delt Tri Bi IP  Ham PF 
     C5   C7  C6          
RT:   4    5-  ___  5   
LEFT: 4+   5-  4+  ___    

Sensation: intact to pinprick, light touch.

Toes downgoing bilaterally

 
Pertinent Results:
Admission Labs ___:
BLOOD:
WBC-8.3 Hgb-11.6* Hct-35.4* MCV-75* Plt ___
Neuts-75.1* Lymphs-16.2* Monos-6.9 Eos-1.3 Baso-0.5
___ PTT-32.0 ___
Glucose-110* UreaN-17 Creat-0.9 Na-138 K-5.0 Cl-101 HCO3-26 
AnGap-16
Calcium-8.9 Phos-3.3 Mg-2.1
URINE:
Color-Yellow Appear-Clear Sp ___
Blood-SM Nitrite-NEG Protein-  Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-4* pH-6.5 Leuks-NEG
___ Bacteri-OCC Yeast-NONE ___
   
ABG ___
pO2-199* pCO2-32* pH-7.54* calTCO2-28 Base XS-5 AADO2-484 
   
URINE ___
Color-Yellow Appear-Hazy Sp ___
Blood-MOD Nitrite-NEG Protein-100 Glucose-NEG Ketone-NEG 
Bilirub-SM  Urobiln-8* pH-6.5 Leuks-MOD
   
MICROBIOLOGY:
URINE Cx ___ & ___:
ENTEROCOCCUS SP.
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------   <=1 S
  
BLOOD Cx ___: No growth to date
  
IMAGING:
CXR ___: 
Stable cardiomegaly and moderate pulmonary edema with a small 
right pleural 
effusion. A chest x-ray following diuresis is recommended 
  
CT head ___:
1. No significant interval change in bilateral subdural 
hematomas, as well as a rounded hemorrhagic focus within the 
right occipital lobe, which may also be extraaxial. 
2. Punctate foci of layering hemorrhage within the occipital 
horns of lateral ventricles, unchanged. 
3. No new hemorrhage identified 
  
CT C-spine ___: 
1. No fracture identified. 
2. Severe multilevel degenerative changes, with a grade 1 
anterolisthesis of C5 on 6, of indeterminate chronicity. 
However, clinical correlation is 
suggested. If there is a high clinical concern for ligamentous 
or cord 
injury, an MRI is suggested 
   
ECHO ___:
Mild left ventricular hypertrophy with mildly depressed global 
systolic function. Severe diastolic dysfunction. Severe aortic 
stenosis. Severe pulmonary artery systolic hypertension
   
CT head ___:
1. No significant change in the subdural hemorrhages, noted, in 
the right 
frontal, right parietal and the left tentorial as well as along 
the 
cerebral convexity based on both sides compared to the most 
recent study. 
Follow up as clinically indicated. 
  
CT Spine ___:
1. No acute fracture within the limitation of severe osteopenia. 

2. Large lesion at S2 level, expanding and indenting S2, likely 
large sacral Tarlov cyst. Underlying soft tissue component can 
not be excluded and a MRI may be helpful in further evaluation. 
3. Degenerative changes as described above. 
4. Scattered areas of ground-glass opacity in bilateral lungs as 
well as areas of atelectasis and small right pleural effusion. 
Dedicated chest CT can be obtained for further evaluation if 
clinically warranted. 
5. Tortuous and dilated left iliac artery, 2.1cm 
max.inadequately assessed. Color doppler study may be helpful 
   
CT head ___:
No significant interval change from ___.
   
MRI brain ___:
No acute infarcts seen. Previously noted bilateral subdurals and 

subarachnoid hemorrhage as well as right sided intraventricular 
blood products are identified. No significant new abnormalities 
are seen 
  
DISCHARGE LABS ___:
WBC-9.5 Hgb-11.8* Hct-37.3* MCV-76* Plt ___ PTT-26.7 ___
Glucose-103 UreaN-19 Creat-0.7 Na-135 K-5.6* Cl-100 HCO3-23 
AnGap-18 (moderately hemolyzed sample)
Calcium-8.5 Phos-3.5 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is an ___ yo male w/ PMHx sig for atrial fibrillation 
on
___ transferred from ___ with R frontal and 
temporal DHs and R occipital IPH in the setting of 
supratheraputic INR, thought to be related from unknown trauma 
vs hypertension.  

# Subdural hematomas: The patient was found to have R frontal 
and temporal subdurals and R occipital IPH in the setting of 
supratherapeutic INR.  This was reversed with Vitamin K and FFP. 
  He was followed by NS, who determined that no surgical 
intervention was needed at this time and recommended that Keppra 
be started for seizure prophylaxis.  They had initially 
recommended restarting ASA, but given the extent of his bleeds 
and discussion with his family, it was decided to hold 
anticoagulation until further evaluation with NSG in 1 month.  
The patient continued to have L sided weakness and L hemineglect 
on transfer to the floor, so Neurology was consulted. A repeat 
MRI revealed no evidence of acute infarct and stable size of his 
bleeds.  They felt that his bleeds could explain his previous 
hemineglect.  On repeat examination, Neurology felt his hemi 
neglect had and did not feel further intervention was needed.

He is scheduled for NSG follow up in 1 month with repeat CT 
scan.
    
# Atrial fibrillation: The patient has a h/o afib, for which he 
was on Coumadin and Toprol 25mg PO daily. He had an episode of 
afib with RVR on ___, which responded well to Diltiazem 
10mg IV. His Toprol dose was increased to 50mg PO daily with 
good effect. HR on discharge 88.

# UTI: The patient had a UCx that showed infection with 
Enterococcus. The patient was started on a 14 day course of 
Ampicillin. He has 10 days remaining in his course.
   
# Severe AS/Pulm HTN: The patient had an ECHO, which showed 
severe aortic stenosis with valve area 0.8-1.0 cm2 and severe 
pulm HTN. He will need close follow up by his outpatient 
cardiologist, Dr. ___, ___ 
   

 
Medications on Admission:
Metoprolol succinate 25mg daily  
Coumadin 3mg daily  
Lasix 20mg daily 
 
Discharge Medications:
1. Levetiracetam 250 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day): please take this medication until your appointment 
with neurosurgery.  
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever, pain.  
3. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
6. Ampicillin 250 mg Capsule Sig: Two (2) Capsule PO Q6H (every 
6 hours) for 10 days.  
7. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Subdural hematomas, Urinary Tract Infection

Secondary:  Atrial fibrillation

 
Discharge Condition:
Improved, subdural hematomas are stable, neuro exam improved - 
no longer has left hemineglect

 
Discharge Instructions:
You were admitted to the hospital for a bleed in your brain.  
You were monitored closely in the MICU.  The neurosurgery team 
came and evaluated you and determined there was no need for a 
surgical intervention at this time.  CT scans showed no 
progression of your bleed.  You were transferred to the general 
medicine floor on ___ and did well.  The neurology team also 
came and evaluated you and requested an MRI which showed no new 
strokes and the previous bleeds were stable. 

The following changes were made to your medications
1.  Hold Coumadin and other blood thinners until your visit with 
Neurosurgery in 4 weeks.
2.  Start Keppra 750mg by mouth twice daily to prevent seizures 
until your visit with Neurosurgery
3.  Take Ampicillin 500mg by mouth every 6 hours for the next ___ 
days for a urinary tract infection
4.  Tylenol ___ by mouth every 6 hours as needed for pain
5.  Increase Metoprolol succinate from 25mg to 50mg by mouth 
daily
6.  Discontinue Lasix 20mg until re-evaluation by your primary 
care physician.
   
If you experience worsening headache, increased weakness, 
difficulty speaking or slurring your speech, bowel or bladder 
incontinence, shortness of breath, chest pain, fevers, chills, 
or any other concerning symptoms, please call your primary care 
physician or return to the emergency department.
   
It was a pleasure meeting you and taking part in your care.
 
Followup Instructions:
___